US07514436B2
Synthesis of {4-[6-(2-Cyclopropylethoxy)Pyridazin-3-yl]Piperazin-1-yl}-(2-Trifluoromethylphenyl)Methanone
Following the procedure set forth above in Example 5, only making variations using 2-cyclopropylethanol to replace 2-phenylethanol to react with [4-(6-chloropyridazin-3-yl)piperazin-1-yl]-(2-trifluoromethylphenyl)methanone, the title compound was obtained as a white solid (56 mg, 74.8% yield). 1H NMR (400 MHz, CDCl3) δ 7.72, 7.60-7.63, 7.52-7.56, 7.35, 7.03, 6.87, 4.46, 3.91-3.98, 3.55, 3.46-3.50, 3.31, 1.68, 0.79-0.84, 0.43-0.46, 0.11-−0.79.

reactant | 2-cyclopropylethanol | C1(CC1)CCO | C5H10O
reactant | 2-phenylethanol | C1(=CC=CC=C1)CCO | C8H10O
reactant | [4-(6-chloropyridazin-3-yl)piperazin-1-yl]-(2-trifluoromethylphenyl)methanone | ClC1=CC=C(N=N1)N1CCN(CC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C16H14ClF3N4O
product | {4-[6-(2-Cyclopropylethoxy)Pyridazin-3-yl]Piperazin-1-yl}-(2-Trifluoromethylphenyl)Methanone | C1(CC1)CCOC1=CC=C(N=N1)N1CCN(CC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C21H23F3N4O2
